US07858640B2
[3-(4-chlorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (1.9 g), 2-(4-chlorobenzyl)-3-oxopentanoic acid ethyl ester (0.95 g) and polyphosphoric acid (10 mL) was heated at 120° C. for 5 hours. The mixture was diluted with water, extracted with ethyl acetate and the combined extracts washed with saturated aqueous sodium chloride solution and saturated aqueous sodium hydrogen carbonate solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (1:0 to 10:1 by volume) to afford title compound as a brown solid, 0.10 g.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 1.9 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-(4-chlorobenzyl)-3-oxopentanoic acid ethyl ester | 0.95 g | C(C)OC(C(C(CC)=O)CC1=CC=C(C=C1)Cl)=O | C14H17ClO3
solvent | water | O | H2O
product | [3-(4-chlorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)Cl)=O)=O | C21H19ClFNO4
